US07138472B2
Continuous Feed Polymerization (CFP) to Produce a 6 Mole Percent 4-methacrylamidosalicylic acid (4-MASA)/94 Mole Percent Sodium Acrylate Inverse Emulsion Copolymer.
An oil phase is prepared by heating (54–57° C.) 3.15 g of Span® 80, 1.37 g Tween® 61, 0.94 g of Tween® 65, and 2.89 g of oleic acid in 45.20 g of Escaid® 110 until the surfactants are dissolved. The oil phase is charged to the reactor and the contents of the reactor are stirred at 1000 rpm. The aqueous monomer phase is then added to the reactor over two minutes so that a water-in-oil emulsion is formed. The emulsion is purged with nitrogen and heated to 45° C. Polymerization is initiated by adding 0.0525 g of Vazo® 64 and 0.0075 g of Vazo® 52. After fifteen minutes, the solution of 4-MASA is fed to the reactor over sixty minutes. The polymerization is continued for a total of three hours at 45° C., and then for one hour at 55° C. After this time, the emulsion is cooled to room temperature. The polymer has a reduced specific viscosity of 31.0 dL/g (measured as a 400 ppm solution in 2N sodium nitrate solution at 30° C.) and a Brookfield viscosity of 4300 cps (#3 spindle at 12 rpm).

reactant | oleic acid | 2.89 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | water | O | H2O
reactant | Vazo | 0.0525 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | Vazo | 0.0075 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | sodium nitrate | 2N | [N+](=O)([O-])[O-].[Na+]
product | 4-methacrylamidosalicylic acid | C(C(=C)C)(=O)NC=1C=C(C(C(=O)O)=CC1)O | C11H11NO4
